US08476434B2
To 3,4-dichlorobenzoic acid (200 mg, 1.05 mmol), 2,4-diaminotoluene (513 mg, 4.20 mmol), and EDC (403 mg, 2.10 mmol) was added CH2Cl2 (40 mL). The mixture was stirred overnight at RT, concentrated, diluted with EtOAc and extracted with water. The organic layer was dried over Na2SO4, filtered, concentrated, and purified by flash chromatography (n-Hexanes→50% EtOAc/n-Hexanes) yielding N-(3-amino-4-methyl-phenyl)-3,4-dichloro-benzamide. MS m/z=295, 297 [M]+ and [M+2]+. Calc'd for C14H12Cl2N2O: 295.17.

reactant | 3,4-dichlorobenzoic acid | 1.05 mmol, 200 mg | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | 2,4-diaminotoluene | 4.20 mmol, 513 mg | NC1=C(C=CC(=C1)N)C | C7H10N2
reactant | EDC | 2.10 mmol, 403 mg
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | N-(3-amino-4-methyl-phenyl)-3,4-dichloro-benzamide | NC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)Cl)Cl)=O | C14H12Cl2N2O
